US07714126B2
sec-Butyl-(5-nitro-pyridin-2-yl)-amine (97.5 mg, 0.5 mmol) was hydrogenated as above and reacted with 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (135 mg, 0.525 mmol), Et3N (352 uL, 2.5 mmol) and BOP (232 mg. 0.525 mmol). Following work-up as above, the crude material was purified by flash chromatography to yield 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-sec-butylamino-pyridin-3-yl)-amide as a light purple solid (83 mg). ES-MS calcd for C20H19F3N4O2 (m/e) 404.40, obsd 405.1 (M+H).

reactant | sec-Butyl-(5-nitro-pyridin-2-yl)-amine | 0.5 mmol, 97.5 mg | C(C)(CC)NC1=NC=C(C=C1)[N+](=O)[O-] | C9H13N3O2
reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 0.525 mmol, 135 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | Et3N | 2.5 mmol, 352 uL | CCN(CC)CC | C6H15N
reactant | BOP | 0.525 mmol, 232 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-sec-butylamino-pyridin-3-yl)-amide | 83 mg | C(C)(CC)NC1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C20H19F3N4O2
